US04115575
59.6 g of 2,3-dichloropyrazine and 92.8 g of allyl alcohol are dissolved in 400 ml of dimethylsulphoxide. 9.6 g of sodium hydride are introduced into this solution over the course of 30 minutes at 0°-5° C., whilst stirring. The mixture is then stirred for 15 hours at room temperature. Thereafter the reaction mixture is poured into 2 liters of ice water and extracted by shaking with ether. The ether extracts are washed with water, dried over sodium sulphate and evaporated in a waterpump vacuum. The residue is distilled in a high vacuum. 2-Allyloxy-3-chloro-pyrazine, boiling point 42°-44° C./0.03 mm Hg, is thus obtained.

reactant | 2,3-dichloropyrazine | 59.6 g | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | allyl alcohol | 92.8 g | C(C=C)O | C3H6O
reactant | sodium hydride | 9.6 g | [H-].[Na+]
solvent | dimethylsulphoxide | 400 ml | CS(=O)C | C2H6OS
product | 2-Allyloxy-3-chloro-pyrazine | C(C=C)OC1=NC=CN=C1Cl | C7H7ClN2O
